US05314889
2-[(1-Acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole
1.5 g of 2-amino-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole, 1 g of 1-acetylindole-2-carboxylic acid, 0.7 ml of triethylamine and 2.39 g of BOP are dissolved in 15 ml of dichloromethane. The reaction mixture is stirred overnight at room temperature and then concentrated under vacuum. The residue is taken up in ethyl acetate and the solution is successively washed with a buffer solution, pH=2, with a 5% solution of NaHCO3 and with water, and then the organic phase is dried over MgSO4 and concentrated under vacuum. The residue is purified by chromatography on a silica gel, eluent:dichloromethane/ethyl acetate 100/2.5 (v/v).

reactant | 2-amino-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole | 1.5 g | NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)OCC | C15H18N2O4S
reactant | 1-acetylindole-2-carboxylic acid | 1 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | BOP | 2.39 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[(1-Acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)OCC | C26H25N3O6S
